US06166212
2,4-Bis {N-[1-(2-hydroxy-2-methylpropoxy)-2,2,6,6-tetramethylpiperidin-4-yl]butylamino}-6-chloro-s-triazine
A total of 40 g (0.59 mol) of 50% aqueous hydrogen peroxide is added in two portions over five hours to a mixture of 43.2 g (0.076 mol) of 2,4-bis[N-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-6-chloro-s-triazine and 7.0 g (0.035 mol) of ferrous chloride tetrahydrate in 150 g of tert-butyl alcohol and 15 g of water. Another portion of 50% aqueous hydrogen peroxide (3 g, 0.044 mol) is added to the reaction mixture while the temperature is maintained at 40-45° C. for 2.25 hours. The reaction mixture is diluted with 100 g of ethyl acetate. A solution of 100 g of 20% aqueous sodium sulfite is added and the reaction mixture is heated at 60° C. for one hour to decompose residual peroxide. The aqueous layer is extracted with ethyl acetate, and the combined organic layers are concentrated. The crude product is purified by flash chromatography on silica gel with 1:1 (v/v) hexane/ethyl acetate to afford 54.1 g of the title compound.

reactant | hydrogen peroxide | 0.59 mol, 40 g | OO | H2O2
reactant | 2,4-bis[N-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-6-chloro-s-triazine | 0.076 mol, 43.2 g | ON1C(CC(CC1(C)C)CCCCNC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)O)(C)C)Cl)(C)C | C29H54ClN7O2
reactant | hydrogen peroxide | 0.044 mol, 3 g | OO | H2O2
reactant | sodium sulfite | 100 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl alcohol | 150 g | C(C)(C)(C)O | C4H10O
solvent | water | 15 g | O | H2O
solvent | ethyl acetate | 100 g | C(C)(=O)OCC | C4H8O2
product | 2,4-Bis {N-[1-(2-hydroxy-2-methylpropoxy)-2,2,6,6-tetramethylpiperidin-4-yl]butylamino}-6-chloro-s-triazine | 54.1 g | OC(CON1C(CC(CC1(C)C)CCCCNC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OCC(C)(O)C)(C)C)Cl)(C)C)(C)C | C37H70ClN7O4
